US07223788B2
N-{4-[3-(Acetylmethylamino)pyrrolidin-1-yl]phenyl}-4-butoxy-N-methylbenzamide
4-Butoxy-N-methyl-N-[4-(3-methylaminopyrrolidin-1-yl)phenyl]benzamide was mixed with pyridine and acetic anhydride. Volatile fractions were removed after 2 hours. This resulted in the product with the molecular weight of 423.56 (C25H33N3O3); MS (ESI): 424 (M+H+).

reactant | 4-Butoxy-N-methyl-N-[4-(3-methylaminopyrrolidin-1-yl)phenyl]benzamide | C(CCC)OC1=CC=C(C(=O)N(C2=CC=C(C=C2)N2CC(CC2)NC)C)C=C1 | C23H31N3O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-{4-[3-(Acetylmethylamino)pyrrolidin-1-yl]phenyl}-4-butoxy-N-methylbenzamide | C(C)(=O)CNC1CN(CC1)C1=CC=C(C=C1)N(C(C1=CC=C(C=C1)OCCCC)=O)C | C25H33N3O3
